US07666888B2
3-[(1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidin-2-yl)methyl]pyridine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-pyrrolidin-2-ylmethylpyridine dihydrochloride (14.1 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (4.7 mg). Calcd for C21H21N3O2: 347.1634, found 347.1635.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-pyrrolidin-2-ylmethylpyridine dihydrochloride | 0.060 mmol, 14.1 mg | Cl.Cl.N1C(CCC1)CC=1C=NC=CC1
product | 3-[(1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}pyrrolidin-2-yl)methyl]pyridine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1C(CCC1)CC=1C=NC=CC1 | C21H21N3O2
